US06278013B1
Step e: Ethyl 2-(3-Cyano-2,4,5-trifluoro-benzoyl)-3-dimethylamino-acrylate
A solution of 55 g of 3-cyano-2,4,5-trifluoro-benzoyl chloride in 50 ml of toluene is added dropwise to a solution of 36,5 g of ethyl 3-dimethylamino-acrylate and 26,5 g of triethylamine in 140 ml of toluene at a temperature between 50 and 55° C. After stirring at 50° C. for 2 hours the reaction mixture is concentrated in vacuo. The crude product is used for the next step without further purification.

reactant | 3-cyano-2,4,5-trifluoro-benzoyl chloride | 55 g | C(#N)C=1C(=C(C(=O)Cl)C=C(C1F)F)F | C8HClF3NO
reactant | ethyl 3-dimethylamino-acrylate | 36,5 g | CN(C=CC(=O)OCC)C | C7H13NO2
reactant | triethylamine | 26,5 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-(3-Cyano-2,4,5-trifluoro-benzoyl)-3-dimethylamino-acrylate | C(#N)C=1C(=C(C(=O)C(C(=O)OCC)=CN(C)C)C=C(C1F)F)F | C15H13F3N2O3
